Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Enbrel / Methotrexate / Ampicillin
 
Attending: ___
 
Chief Complaint:
chest and arm pain
 
Major Surgical or Invasive Procedure:
___ CABG x6(LIMA-LAD,SVG-OM2-D2-D1,SVG-OM1,SVG-PDA)

 
History of Present Illness:
___ year old female who presented to ___ yesterday 
with substernal chest pain radiating to her left arm that woke 
her from sleep. She reports these symptoms have been occurring 
intermittently over the last one month. At
___ she ruled out for MI per enzymes. Stress test 
showed small LV apex ischemia and mild inferior wall basal 
hypokinesis, EF 57%. She was transferred to ___ for cardiac 
catheterization and further evaluation. She was found to have 
three vessel disease upon cardiac catheterization and is now
being referred to cardiac surgery for revascularization. 

 
Past Medical History:
Hypertension
Dyslipidemia
Tobacco abuse (currently smoking 1 PPD)
Peripheral artery disease
Hypothyroid
Anxiety
Depression
Osteoporosis
Rheumatoid arthritis
Psoriasis
Lupus (remote)
C-diff (___)
Past Surgical History:
Choleysectomy
Bilateral Cataract

 
Social History:
___
Family History:
Premature coronary artery disease- non contributory

 
Physical Exam:
Pulse:67 Resp:18  O2 sat:99/RA
B/P  Right:158/103    Left:155/88
Height:5'5"     Weight:64.3 kgs

General: NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI []
Neck:  Supple [x] Full ROM [x] MMM
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur -none
Abdomen: Soft [x] non-distended [x] non-tender [x] +BS [x]
Extremities: Warm x[], well-perfused [x]  Edema none
 rash bilat upper and lower legs, red/dry/puritic w/ecoriated
ankles and feet
Varicosities: None [x]
Neuro: Grossly intact [x] A&O x3, MAE, nonfocal exam
Pulses:
Femoral      Right: 2+ Left: 2+
DP           Right: dop  Left: dop
___           Right: dop  Left: dop
Radial       Right: cath  Left: 2+

Carotid Bruit  none

 
Pertinent Results:
ECHO ___
Prebypass:
The left atrium is normal in size. No thrombus is seen in the 
left atrial appendage. There is mild symmetric left ventricular 
hypertrophy. There is mild global left ventricular systolic 
dysfunction with estimated Ejection Fraction 50-55%. Right 
ventricular chamber size and free wall motion are normal. There 
are simple atheroma in the ascending aorta. There are complex 
(>4mm) atheroma in the aortic arch, maximum dimension 0.8 cm. 
There are simple atheroma in the descending thoracic aorta. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no pericardial effusion. 
Dr. ___ was notified in person of the results on 
___ at 1400. 
Postbypass:
The patient is AV paced on epinephrine, phenylephrine, 
norepinephrine & vasopressin infusions. There is moderate mitral 
regurgitation. There is mild tricuspid regurgitation. The 
remaining valves are unchanged. Biventricular function is 
maintained on multiple agents. There is biatrial enlargement and 
bowing of the interatrial septum L->R. The aorta is intact.
Prior to chest closure, biventricular function remains intact on 
only norepinephrine & vasopressin infusions. The tricuspid 
regurgitation is trace to mild. The mitral regurgitation is now 
mild to moderate.  

___ 04:44AM BLOOD WBC-9.5 RBC-2.90* Hgb-8.8* Hct-25.3* 
MCV-87 MCH-30.4 MCHC-34.7 RDW-13.2 Plt ___
___ 04:29AM BLOOD WBC-10.6 RBC-2.97* Hgb-8.8* Hct-26.1* 
MCV-88 MCH-29.7 MCHC-33.8 RDW-13.2 Plt ___
___ 02:53PM BLOOD WBC-11.4* RBC-3.35* Hgb-9.8* Hct-29.4* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-13.2 Plt ___
___ 04:44AM BLOOD Glucose-88 UreaN-16 Creat-0.7 Na-130* 
K-4.2 Cl-95* HCO3-25 AnGap-14
___ 04:29AM BLOOD Glucose-90 UreaN-14 Creat-0.6 Na-126* 
K-4.6 Cl-95* HCO3-27 AnGap-9
___ 02:53PM BLOOD Glucose-121* UreaN-10 Creat-0.6 Na-127* 
K-4.4 Cl-94* HCO3-25 AnGap-12
___ 10:58AM BLOOD Glucose-102* Na-129* K-3.9 Cl-96
 
Brief Hospital Course:
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent urgent 
coronary artery bypass graft times six.  Left internal mammary 
artery to left anterior descending artery and saphenous vein 
grafts to posterior descending artery, obtuse marginal 1 and 2, 
and diagonal 1 and 2, and Endoscopic harvesting of the long 
saphenous vein.  See operative note for full deatils. Overall 
the patient tolerated the procedure well and post-operatively 
was transferred to the CVICU in stable condition for recovery 
and invasive monitoring. Post-operative day one found the 
patient extubated, alert and oriented and breathing comfortably. 
Initially she had no underlying rhythm and remained DDD paced. 
The electrophysiology service was consulted.  Lopressor was 
initiated once the patient regained her rhythm and she was 
tolerating beta blockers with a rate in the 80's.  The patient 
was neurologically intact and hemodynamically stable on no 
inotropic or vasopressor support. She was gently diuresed toward 
the preoperative weight.  The patient was transferred to the 
telemetry floor for further recovery.  Mediastinal chest tubes 
were removed and the pleural chest tube stayed in an additional 
day due to an air leak.  After the pleural chest tube was on 
waterseal for greater than ___ hours with a small stable 
left pneumothorax, pleural chest tube was pulled. Follow up 
chest radiograph showed small stable left pneumothorax. Pacing 
wires were discontinued without complication on post-operative 
day four. The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  By the time 
of discharge on post-operative day six the patient was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The patient was discharged to ___ 
Rehab in good condition with appropriate follow up instructions.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from webOMR.
1. Atenolol 150 mg PO DAILY 
2. Enalapril Maleate 20 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Rosuvastatin Calcium 20 mg PO DAILY 
6. Diazepam 5 mg PO Q12H:PRN anxiety 
7. Carbamazepine 400 mg PO DAILY 
8. Nortriptyline 200 mg PO HS 
9. Aspirin 81 mg PO DAILY 
10. Calcium Carbonate 500 mg PO QID:PRN reflux 
11. Fluocinonide 0.05% Cream 1 Appl TP BID:PRN prn 

 
Discharge Medications:
1. Albuterol-Ipratropium ___ PUFF IH Q6H 
2. Aspirin 81 mg PO DAILY 
3. Carbamazepine 400 mg PO DAILY 
4. Enalapril Maleate 10 mg PO BID 
Hold for sbp<100 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Nortriptyline 200 mg PO HS 
7. Rosuvastatin Calcium 20 mg PO DAILY 
8. Clopidogrel 75 mg PO DAILY 
poor grafts 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Metoprolol Tartrate 12.5 mg PO BID 
Hold for HR < 55 or SBP < 90 and call medical provider. 
11. Ranitidine 150 mg PO BID 
12. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg one tablet(s) by mouth every six hours Disp 
#*40 Tablet Refills:*0
13. Calcium Carbonate 500 mg PO QID:PRN reflux 
14. Fluocinonide 0.05% Cream 1 Appl TP BID:PRN prn 
15. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
16. Diazepam 5 mg PO Q12H:PRN anxiety 
17. Furosemide 40 mg PO DAILY Duration: 1 Weeks 
18. Potassium Chloride 40 mEq PO DAILY Duration: 1 Weeks 
Hold for K >4.5 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
coronary artery disease, Hypertension, Dyslipidemia, 
Tobacco(currently 1 PPD), Peripheral artery disease, 
Hypothyroid, Anxiety, Depression, Osteoporosis,  
Rheumatoid arthritis, Psoriasis, Lupus(remote), ___, 
Choleysectomy, Bilateral Cataract  

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait 
Incisional pain managed with Ultram
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. 
Trace Edema bilaterally
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___